US04017492
In the manner given in Example 13, 7-(trifluoromethyl)-2-hydrazino-5-(o-fluorophenyl)-3H-1,4-benzodiazepine can be stirred with 2-oxo-4-(dipropylamino)-butyric acid at room temperature to give 7-(trifluoromethyl)-2-[[1-carboxy-3-(dipropylamino)propylidene]-hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-(trifluoromethyl)-2-hydrazino-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)F)C1)(F)F | C16H12F4N4
reactant | 2-oxo-4-(dipropylamino)-butyric acid | O=C(C(=O)O)CCN(CCC)CCC | C10H19NO3
product | 7-(trifluoromethyl)-2-[[1-carboxy-3-(dipropylamino)propylidene]-hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN=C(CCN(CCC)CCC)C(=O)O)C2=C(C=CC=C2)F)C1)(F)F | C26H29F4N5O2
